US08557766B2
<Step 1> Synthesis of 2,3-dihydrobenzofuran-3,7-diol
To a solution of trimethylsulfoxonium iodide (16.7 g) in dimethylsufoxide (75 ml), sodium hydride (3.19 g) was added, and the resultant mixture was stirred for 1 hour. A solution of 2,3-dihydroxybenzaldehyde (10 g) in dimethylsufoxide (75 ml) was added thereto and the resultant mixture was stirred for 2 days. To the resultant reaction solution, saturated ammonium chloride aqueous solution was added, and extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline, dried over anhydrous sodium sulfate, and filtered. From the reaction mixture, the solvent was distilled off under reduced pressure, followed by purifying the resultant residue by silica gel column chromatography (eluate; n-hexane:ethyl acetate=100:0 to 80:20), and from the resultant, the solvent was distilled off under reduced pressure to obtain the subject compound (4.2 g) as yellow solid.

reactant | trimethylsulfoxonium iodide | 16.7 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 3.19 g | [H-].[Na+]
reactant | 2,3-dihydroxybenzaldehyde | 10 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2,3-dihydrobenzofuran-3,7-diol | 4.2 g | O1CC(C2=C1C(=CC=C2)O)O | C8H8O3
